US04956359
Cis-2-Methyl-N-(2-propenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A stirred mixture of 4.02 g (0.01 mole) of crude (73%) 2-methyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride cis isomer and 1.4 g (0.01 mole) of potassium carbonate in 20 ml of tetrahydrofuran was treated with 0.57 g (0.01 mole) of 2-propenylamine. After stirring for 15 minutes, a small piece of ice was added and stirring continued for 3 hr. The reaction mixture was diluted with water and the oil which separated was extracted with methylene chloride (2×50 ml). The combined extracts were dried over magnesium sulfate and concentrated in vacuo (5.2 g). The crude product was chromatographed on a 125 g silica gel column. Elution with chloroform washed impurities from the column and the product was removed by eluting with an ethyl acetate/chloroform gradient (1-20%). The combined product fractions gave a pale yellow oil which solidified on standing and was recrystallized from isopropyl ether/hexane to give an oil which slowly crystallized, yielding 2.1 g (67.8%) of white product, m.p. 74°-77° C.

reactant | 2-methyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | CC1N(CC1OC1=CC(=CC=C1)C(F)(F)F)C(=O)Cl | C12H11ClF3NO2
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propenylamine | 0.01 mole, 0.57 g | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Cis-2-Methyl-N-(2-propenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 2.1 g, 67.8% | C[C@@H]1N(C[C@@H]1OC1=CC(=CC=C1)C(F)(F)F)C(=O)NCC=C | C15H17F3N2O2
